US09120777B2
A) 4-Bromo-3-fluoro-2-methoxybenzaldehyde
Sodium methoxide (28% methanol solution, 69.1 g) was added to a solution of 4-bromo-2,3-difluorobenzaldehyde (52.8 g) in methanol (600 mL) at room temperature. The mixture was refluxed under nitrogen atmosphere for 2 hours and concentrated in vacuo to about ¼ volume. The mixture was diluted with ethyl acetate and water. The mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound (52.3 g).

reactant | Sodium methoxide | 69.1 g | C[O-].[Na+]
reactant | 4-bromo-2,3-difluorobenzaldehyde | 52.8 g | BrC1=C(C(=C(C=O)C=C1)F)F | C7H3BrF2O
solvent | methanol | 600 mL | CO | CH4O
product | 4-Bromo-3-fluoro-2-methoxybenzaldehyde | 52.3 g | BrC1=C(C(=C(C=O)C=C1)OC)F | C8H6BrFO2
